US06342523B1
Synthesis of 4-(Ethylaminocarbonyloxy)-3,5-di-tert-butylbenzaldehyde
To a solution of 3,5-di-tert-butyl-4-hydroxybenzaldehyde (5 g, 20 mmol) in DMF (100 mL) was added triethylamine (3.5 mL, 25 mmol) and the solution was stirred for 15 min at room temperature. Ethyl isocyanate (1.95 mL, 25 mmol) was added and the reaction mixture was stirred for 2 h at room temperature until no more hydroxybenzaldehyde was detected by TLC (Rf=0.78 for product and 0.89 for starting material using 1:1 hexanes/EtOAc). The reaction solution was concentrated by azeotropic removal of DMF with water. The resulting suspension was filtered, washed with water and dried in a vacuum oven to afford 96% of the title compound as a light buff solid.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 20 mmol, 5 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl isocyanate | 25 mmol, 1.95 mL | C(C)N=C=O | C3H5NO
reactant | hydroxybenzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(Ethylaminocarbonyloxy)-3,5-di-tert-butylbenzaldehyde | 96% | C(C)NC(=O)OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C18H27NO3
